US08067457B2
rel-N-(2-{[(3R,4R)-4-ethoxy-1-(tetrahydro-2H-pyran-4-yl)pyrrolidin-3-yl]amino}-2-oxoethyl)-3-(trifluoromethyl)benzamide (91)
To a solution of rel-(3R,4R)-4-ethoxy-1-(tetrahydro-2H-pyran-4-yl)pyrrolidin-3-amine (36 mg, 0.168 mmol) in DCM was added {[3-(trifluoromethyl)benzoyl]amino}acetic acid (41.5 mg, 0.168 mmol), HATU (76.7 mg, 0.202 mmol), HOBt (27.2 mg, 0.202 mmol) and DIPEA (0.044 mL, 0.252 mmol) and was stirred at RT overnight. The resulting crude mixture was subjected to flash chromatography (15% MeOH, 1% NH4OH in EtOAc) to afford the title compound (38 mg, 51%) as a white solid. 1H-NMR (CDCl3) δ: 1.17 (t, J=6.9 Hz, 3H), 1.40-1.60 (m, 2H), 1.65-1.82 (m, 2H), 2.22-2.40 (m, 2H), 2.63-2.80 (m, 2H), 3.22-3.51 (m, 4H), 3.63-3.80 (m, 2H), 3.89-4.00 (m, 2H), 4.10-4.20 (m, 2H), 4.24-4.37 (m, 1H), 6.45-6.58 (m, 1H), 7.20-7.30 (m, 1H), 7.56 (t, J=8.1 Hz, 1H), 7.76 (d, J=7.5 Hz, 1H), 7.99 (d, J=7.8 Hz, 1H), 8.08 (s, 1H). MS m/z: 444 (M+1).

reactant | rel-(3R,4R)-4-ethoxy-1-(tetrahydro-2H-pyran-4-yl)pyrrolidin-3-amine | 0.168 mmol, 36 mg | C(C)O[C@H]1[C@@H](CN(C1)C1CCOCC1)N | C11H22N2O2
reactant | {[3-(trifluoromethyl)benzoyl]amino}acetic acid | 0.168 mmol, 41.5 mg | FC(C=1C=C(C(=O)NCC(=O)O)C=CC1)(F)F | C10H8F3NO3
reactant | HATU | 0.202 mmol, 76.7 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | HOBt | 0.202 mmol, 27.2 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 0.252 mmol, 0.044 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | NH4OH | [NH4+].[OH-]
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | MeOH | CO | CH4O
product | rel-N-(2-{[(3R,4R)-4-ethoxy-1-(tetrahydro-2H-pyran-4-yl)pyrrolidin-3-yl]amino}-2-oxoethyl)-3-(trifluoromethyl)benzamide | 38 mg, 51% | C(C)O[C@H]1[C@@H](CN(C1)C1CCOCC1)NC(CNC(C1=CC(=CC=C1)C(F)(F)F)=O)=O | C21H28F3N3O4
